US05198208
5,9-Bis(benzyloxymethyl)-1-oxa-4,7,10-triazacyclododecane (0.24 g, 0.6 mmol) was dissolved in methanol (10 ml). Ammonium formate (0.20 g, 3 mmol) and 10% Palladium on carbon (0.40 g) were added and the mixture was stirred under a nitrogen atmosphere at 50° C. for 16 hours. The catalyst was filtered off and washed with methanol (5 ml). The filtrate was evaporated and the 5,9-Bis-(hydroxymethyl)-1-oxa-4,7,10-triazacyclododecane was isolated as a colourless oil. Yield 0.12 g (86%).

reactant | 5,9-Bis(benzyloxymethyl)-1-oxa-4,7,10-triazacyclododecane | 0.6 mmol, 0.24 g | C(C1=CC=CC=C1)OCC1NCCOCCNC(CNC1)COCC1=CC=CC=C1 | C24H35N3O3
reactant | Ammonium formate | 3 mmol, 0.20 g | C(=O)[O-].[NH4+]
solvent | methanol | 10 ml | CO | CH4O
catalyst | Palladium on carbon | 0.40 g | [Pd] | Pd
product | 5,9-Bis-(hydroxymethyl)-1-oxa-4,7,10-triazacyclododecane | OCC1NCCOCCNC(CNC1)CO | C10H23N3O3
